US09212182B2
Step 1: (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)phenyl)acrylate
A flask was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (50.0 g, 160 mmol), 1-bromo-2-chloro-4-iodo-5-methoxybenzene (66.5 g, 191 mmol), xantphos (4.62 g, 7.98 mmol), Pd2(dba)3 (3.65 g, 3.99 mmol), and cesium carbonate (72.8 g, 223 mmol). A reflux condenser was attached and the reaction placed under nitrogen atmosphere. CPME (319 ml) was added and the reaction was heated at 90° C. for 36 h. The mixture was cooled to rt and partitioned between 1000 mL of EtOAc and 1000 mL of water. The layers were separated and the aqueous layer was extracted with 200 mL of EtOAc. The combined organic layers were poured through a silica plug to provide a brown solution. The solution was concentrated until about 100 mL of solvent was left, giving a heterogeneous brown sludge. Isopropanol (500 mL) was added to the solution and a yellow solid precipitated. The yellow solid was collected by vacuum filtration (rinsing with 200 mL isopropanol) to provide desired product (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)phenyl)acrylate (76.4 g, 143 mmol, 90% yield) as a yellow solid. m/z (ESI) 531.9 (M−H)−.

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 160 mmol, 50.0 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | 1-bromo-2-chloro-4-iodo-5-methoxybenzene | 191 mmol, 66.5 g | BrC1=C(C=C(C(=C1)OC)I)Cl | C7H5BrClIO
reactant | cesium carbonate | 223 mmol, 72.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | CPME | 319 ml | COC1CCCC1 | C6H12O
catalyst | Pd2(dba)3 | 3.99 mmol, 3.65 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 7.98 mmol, 4.62 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | Isopropanol | 500 mL | C(C)(C)O | C3H8O
product | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)phenyl)acrylate | 143 mmol, 76.4 g, 90% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Cl)Br)OC | C25H23BrClNO3S
